US05453514
0.1 g of 10% palladium-carbon were added to a solution of 0.6 g of 5-amino-3-(2-phenylethenyl)-1H-pyrazole-1-carboxamidine hydrochloride in 40 ml of methanol and stirred for 30 minutes in hydrogen atmosphere of normal pressure at room temperature. The reaction solution was filtered to remove the insoluble solids therefrom, and the solvent was removed by distillation under reduced pressure. The resulting residue was recrystallized from ethanol-ether to obtain 0.38 g of 5-amino-3-(2-phenylethyl)-1H-pyrazole-1-carboxamidine hydrochloride.

reactant | 5-amino-3-(2-phenylethenyl)-1H-pyrazole-1-carboxamidine hydrochloride | 0.6 g | Cl.NC1=CC(=NN1C(=N)N)C=CC1=CC=CC=C1
solvent | methanol | 40 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 0.1 g | [C].[Pd]
product | 5-amino-3-(2-phenylethyl)-1H-pyrazole-1-carboxamidine hydrochloride | 0.38 g | Cl.NC1=CC(=NN1C(=N)N)CCC1=CC=CC=C1 | InChI=1S/C12H15N5.ClH/c13-11-8-10(16-17(11)12(14)15)7-6-9-4-2-1-3-5-9;/h1-5,8H,6-7,13H2,(H3,14,15);1H
